US06294531B1
a) 5-Nitro-2-methoxybenzonitrile
A mixture of 2-cyano-4-nitrophenol (3.5 g, 21 mmol), K2CO3 (5.9 g, 42 mmol), and MeI (9.08 g, 64 mmol) in acetone (50 mL) was heated at reflux overnight. The mixture was cooled and concentrated, taken up in H2O, stirred, filtered the yellow solid, dried by air (3.0 g, 79%). 1H NMR (400 MHz, CDCl3): d 4.08 (s, 3H), 7.12 (d, J=9.2 Hz, 1H), 8.5 (m, 2H).

reactant | 2-cyano-4-nitrophenol | 21 mmol, 3.5 g | C(#N)C1=C(C=CC(=C1)[N+](=O)[O-])O | C7H4N2O3
reactant | K2CO3 | 42 mmol, 5.9 g | C(=O)([O-])[O-].[K+].[K+]
reactant | MeI | 64 mmol, 9.08 g | CI | CH3I
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | 5-Nitro-2-methoxybenzonitrile | [N+](=O)([O-])C=1C=CC(=C(C#N)C1)OC | C8H6N2O3
